US08071807B2
Synthesis of {4-Chloro-3-[4-(2,2-dimethyl-propionylamino)-2-isopropylsulfanylmethyl-phenoxy]-phenyl}-acetic acid (Compound 52)
[3-(2-Bromomethyl-4-nitro-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester was treated with 2-propanethiol as described in Example 21, Step 8 to provide [4-chloro-3-(2-isopropylsulfanylmethyl-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester, which was reduced to [3-(4-amino-2-isopropylsulfanylmethyl-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester as described in Example 21, Step 9. Treatment of the amine with pivaloyl chloride as described in Example 21, Step 10 provided {4-chloro-3-[4-(2,2-dimethyl-propionylamino)-2-isopropylsulfanylmethyl-phenoxy]-phenyl}-acetic acid ethyl ester. Hydrolysis of the ester to the acid was carried out as described in Example 21, Step 11.

reactant | [3-(4-amino-2-isopropylsulfanylmethyl-phenoxy)-4-chloro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)N)CSC(C)C)=O | C20H24ClNO3S
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | {4-chloro-3-[4-(2,2-dimethyl-propionylamino)-2-isopropylsulfanylmethyl-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSC(C)C)=O | C25H32ClNO4S
product | {4-Chloro-3-[4-(2,2-dimethyl-propionylamino)-2-isopropylsulfanylmethyl-phenoxy]-phenyl}-acetic acid | ClC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSC(C)C | C23H28ClNO4S
